US07816540B2
trans-4-{2-[2-(6-Chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-cyclohexanecarboxylic acid
To a solution of (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester (0.2 g, 0.82 mmol) in methanol (4 mL) were added cyclohexanecarbaldehyde (0.16 mL, 1.22 mmol, 1.5 equiv.), 6-chloro-nicotinic acid (0.13 g, 0.82 mmol, 1.0 equiv.) and trans-4-Isocyano-cyclohexanecarboxylic acid methyl ester (0.137 mg, 0.82 mmol, 1.0 equiv.) and stirred at rt for 16 h. A solution of 4 M HCl in dioxane (4 mL) was added and the reaction mixture stirred at rt for 3 h. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 9 by addition of a solution of 1 M NaHCO3 and the aqueous layer extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was dissolved in methanol (15 ml) and NaOH (5 ml) and DMF (1 ml) were added and the mixture heated to 50° C. overnight. The pH was adjusted to 4. A light brown solid appeared which was further purified by preparative HPLC. MS (ES+): 532 (M+H).

reactant | (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester | 0.82 mmol, 0.2 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)F)N)=O | C11H14F2N2O2
reactant | cyclohexanecarbaldehyde | 1.22 mmol, 0.16 mL, 1.5 equiv. | C1(CCCCC1)C=O | C7H12O
reactant | 6-chloro-nicotinic acid | 0.82 mmol, 0.13 g, 1.0 equiv. | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | trans-4-Isocyano-cyclohexanecarboxylic acid methyl ester | 0.82 mmol, 0.137 mg, 1.0 equiv. | COC(=O)[C@@H]1CC[C@H](CC1)[N+]#[C-] | C9H13NO2
reactant | HCl | 4 M | Cl | ClH
reactant | methanol | 4 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | trans-4-{2-[2-(6-Chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-acetylamino}-cyclohexanecarboxylic acid | ClC1=CC=C(C=N1)C1=NC2=C(N1C(C(=O)N[C@@H]1CC[C@H](CC1)C(=O)O)C1CCCCC1)C=C(C(=C2)F)F | C27H29ClF2N4O3
